US05344958
To 3-methoxy-2-methylbenzoic acid (454 g, 2.73 tool) in 1300 mL chloroform containing 20 g dimethyl formamide at 65° C., thionyl chloride (390 g) was added dropwise over 6 hours, whereupon the solvent was removed by evaporation at a reduced pressure. The residue (512 g) was distilled at 110° C. at 1-2 mm Hg to give 3-methoxy-2-methylbenzoyl chloride (435 g. 85%).

reactant | 3-methoxy-2-methylbenzoic acid | 454 g | COC=1C(=C(C(=O)O)C=CC1)C | C9H10O3
reactant | thionyl chloride | 390 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 1300 mL, 20 g | C(Cl)(Cl)Cl | CHCl3
product | 3-methoxy-2-methylbenzoyl chloride | 435 g, 85% | COC=1C(=C(C(=O)Cl)C=CC1)C | C9H9ClO2
